US08044213B2
To a mixture of 0.35 g (1.38 mmole) of 2-amino-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide (V.2), 0.59 g (1.66 mmole) of 4-(3-fluoro-4-nitro-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester (IV.23) and 10 mL of dimethylformamide was added 2.24 g (6.90 mmole) of cesium carbonate. The mixture was heated at 70 degrees for 5 hours and then diluted with ethyl acetate and water. The aqueous phase was extracted three times with ethyl acetate. The combined organic phases were washed with water and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with ethyl acetate-hexanes (gradient 0:100-40:60) to give 0.15 g of 4-{3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazole-2-ylamino]-4-nitro-phenoxymethyl}-piperidine-1-carboxylic acid tert-butyl ester (VI.23).

reactant | 2-amino-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 1.38 mmole, 0.35 g | NC=1SC(=C(N1)C1=CC(=CC=C1)Cl)C(=O)N | C10H8ClN3OS
reactant | 4-(3-fluoro-4-nitro-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | 1.66 mmole, 0.59 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC(=C(C=C1)[N+](=O)[O-])F | C17H23FN2O5
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | cesium carbonate | 6.90 mmole, 2.24 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-{3-[5-carbamoyl-4-(3-chloro-phenyl)-thiazole-2-ylamino]-4-nitro-phenoxymethyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.15 g | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=CC(=C(C=C1)[N+](=O)[O-])NC=1SC(=C(N1)C1=CC(=CC=C1)Cl)C(N)=O | C27H30ClN5O6S
